US07842688B2
e) Methyl 2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole-4-carboxylate
Analogously to Example 228e, 4.3 g of methyl 2-(3-methoxypropyl)-3H-benzoimidazole-4-carboxylate and 3.54 ml of (2-chloromethoxyethyl)trimethylsilane are reacted. The title compound is obtained as a brown solid. Rf=0.33 (95:5 dichloromethane-methanol); Rt=4.26.

reactant | methyl 2-(3-methoxypropyl)-3H-benzoimidazole-4-carboxylate | 4.3 g | COCCCC=1NC2=C(N1)C=CC=C2C(=O)OC | C13H16N2O3
reactant | (2-chloromethoxyethyl)trimethylsilane | 3.54 ml | ClCOCC[Si](C)(C)C | C6H15ClOSi
product | Methyl 2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole-4-carboxylate | COCCCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2C(=O)OC | C19H30N2O4Si
